US08212041B2
2-Fluoro-2-(quinolin-6-yl)acetic acid
To a solution containing methyl 2-fluoro-2-(quinolin-6-yl)acetate (0.49 g, 2.2 mmol) in methanol (3.0 ml) was added sodium hydroxide (5 M, 1.0 ml, 5.0 mmol). The mixture was stirred at rt for 48 h and then neutralized with 5 N HCl (1.0 mL). The solution was allowed to sit overnight during which time a precipitate formed. The solution was filtered and the filtercake washed with cold water then dried under vacuum to afford the title compound as a tan solid. MS (ESI, pos. ion) m/z: 206 (M+1).

reactant | methyl 2-fluoro-2-(quinolin-6-yl)acetate | 2.2 mmol, 0.49 g | FC(C(=O)OC)C=1C=C2C=CC=NC2=CC1 | C12H10FNO2
reactant | sodium hydroxide | 5.0 mmol, 5 M, 1.0 ml | [OH-].[Na+]
reactant | HCl | 5 N, 1.0 mL | Cl | ClH
solvent | methanol | 3.0 ml | CO | CH4O
product | 2-Fluoro-2-(quinolin-6-yl)acetic acid | FC(C(=O)O)C=1C=C2C=CC=NC2=CC1 | C11H8FNO2
